* Testcase 000208 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8

* Circuit
V1 VR GND 0
R4 VR N1 10k
R5 VG N3 10k
R6 N5 GND 10k
I15 VDD A 1u
I12 N3 GND 1u
XQ18 N1 N1 GND 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ19 N2 N1 GND 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ11 VDD N3 N2 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ16 N4 N2 GND 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ15 A A N4 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ13 A N4 N5 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ20 N5 N1 GND 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ14 N6 N5 GND 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ17 VDD A N6 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQ12 VDD A N3 0 sky130_fd_pr__npn_05v5_W1p00L1p00

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
let vout_dc = v(N5)
print power_dc vout_dc

quit
.endc

.end
